US05019577
(c) Preparation of Diethyl N-[4-(3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino)-3-methoxybenzoyl]-(L)-glutamate
Both diethyl N-(4-amino-3-methoxybenzoyl)-(L)-glutamate (3.52 g, 9.99 mmoles) and 3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propionaldehyde (3.08 g, 9.99 mmoles) were stirred in absolute ethanol (100 mL) under nitrogen while glacial acetic acid (6 mL) was added dropwise during 1 minute. After solution was achieved (0.5 hour), activated 3 Å molecular sieves (20 mL) were added and stirring was continued 2 hours. The reaction mixture was chilled (ice bath) and sodium cyanoborohydride (628 mg, 9.99 mmoles) added in one portion. After stirring cold 0.5 hour, the bath was removed and the reaction mixture allowed to warm to ambient temperature. The reaction mixture was filtered after 16 hours and the solids were rinsed with ethanol (100 mL). The filtrate was spin evaporated and dried to a cream foam that was dissolved in ethyl acetate (100 mL). The organic phase was washed (2×100 mL 1:1 brine/water) and poured onto a silica gel column (175 g, pre-wet with ethyl acetate). The column was rinsed with ethyl acetate (400 mL) and then the product eluted with 5% added methanol. Like fractions were combined by spin evaporation and dried to give a white solid; yield, 2.07 g (32%); mp 73°-84° C. (eff.); 1H-NMR (DMSO-d6) δ 1.15 and 1.17 (2t overlapped, 6H), 1.65 (br m, 2H) 1.9-2.3 (br m, 4H), 2.12 (s, 3H), 2.20 (s, 6H), 2.40 (t, 2H), 3.10 (br m, 2H), 3.80 (s, 3H), 4.0-4.2 (2 q overlapped, 4H), 4.39 (m, 1H), 5.46 (br t, 1H), 6.47 (d, Jo=8 Hz, 1H), 7.29 (d, Jm=2 Hz, 1H), 7.42 (dxd, Jo=8 Hz, Jm=2 hz, 1H), 8.28 (d, 1H), 11.9 (v br s, 2H); uv (MeOH) 306 nm max (25800), 258 min (3940), 227 sh (17800), 205 max (32400), mass spec (FAB) m/e 645.6 (62%), 442.5 (81), 400.1 (100).

reactant | diethyl N-(4-amino-3-methoxybenzoyl)-(L)-glutamate | 9.99 mmoles, 3.52 g | NC1=C(C=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)OC | C17H24N2O6
reactant | 3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propionaldehyde | 9.99 mmoles, 3.08 g | C(C)(=O)NC=1NC(C(=C(N1)N(C(C)=O)C(C)=O)CCC=O)=O | C13H16N4O5
reactant | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 9.99 mmoles, 628 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | MeOH | CO | CH4O
product | Diethyl N-[4-(3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propylamino)-3-methoxybenzoyl]-(L)-glutamate | C(C)(=O)NC=1NC(C(=C(N1)N(C(C)=O)C(C)=O)CCCNC1=C(C=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)OC)=O | C30H40N6O10
